US06518430B1
treating 10-methoxy-2,2,4-trimethyl-2,5-dihydro-1H-chromeno [3,4-f]quinolin-5-ol with allyltrimethylsilane and a Lewis acid to provide 5-(allyloxy)-10-methoxy-2,2,4-trimethyl-2,5-dihydro-1H-chromeno[3,4-f]quinoline; and

reactant | 10-methoxy-2,2,4-trimethyl-2,5-dihydro-1H-chromeno [3,4-f]quinolin-5-ol | COC=1C2=C(C=CC1)OC(C1=C3C(=CC(NC3=CC=C12)(C)C)C)O | C20H21NO3
reactant | allyltrimethylsilane | C(C=C)[Si](C)(C)C | C6H14Si
product | 5-(allyloxy)-10-methoxy-2,2,4-trimethyl-2,5-dihydro-1H-chromeno[3,4-f]quinoline | C(C=C)OC1OC=2C=CC=C(C2C=2C1=C1C(=CC(NC1=CC2)(C)C)C)OC | C23H25NO3
